US05001125
A mixture of 2.7 parts of 3,6-difluoropyridazine, 4.6 parts of 1-[3-(trifluoromethyl)phenyl]piperazine, 3.2 parts of sodium carbonate and 90 parts of N,N-dimethylformamide was stirred overnight at 60° C. The reaction mixture was poured 1nto water. The product was filtered off, washed with water and crystallized from 2-propanol, yielding 3 parts (46%) of 3-fluoro-6-[4-[3-(trifluoromethyl)phenyl]-1-piperazinyl]pyridazine; mp. 131.5° C. (compound 24).

reactant | 3,6-difluoropyridazine | FC=1N=NC(=CC1)F | C4H2F2N2
reactant | 1-[3-(trifluoromethyl)phenyl]piperazine | FC(C=1C=C(C=CC1)N1CCNCC1)(F)F | C11H13F3N2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-fluoro-6-[4-[3-(trifluoromethyl)phenyl]-1-piperazinyl]pyridazine | 46% | FC=1N=NC(=CC1)N1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F | C15H14F4N4
